US03957989
2,7-DIACETYLXANTHEN-9-ONE
To a solution of 133.1 g (0.5 mole) of 2,7-diacetylxanthene in three liters of glacial acetic acid was added slowly over 11/2 hours 149.0 g (0.5 mole) of sodium dichromate. The resulting mixture was stirred for 2 hours at room temperature and then heated on a steam bath for 4 hours, then cooled, after which the reaction mixture was poured into 9 liters of water. The solid was filtered off and recrystallized from benzene to give the desired product. M.P. 226°-228°C.

reactant | 2,7-diacetylxanthene | 0.5 mole, 133.1 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(C)=O | C17H14O3
reactant | sodium dichromate | 0.5 mole, 149.0 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | water | 9 liters | O | H2O
solvent | acetic acid | three liters | C(C)(=O)O | C2H4O2
product | 2,7-DIACETYLXANTHEN-9-ONE | C(C)(=O)C1=CC=2C(C3=CC(=CC=C3OC2C=C1)C(C)=O)=O | C17H12O4
